US06235787B1
A suspension of 0.926 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-(2-phthalimidoethyl)valerohydrazide in 10 ml of methanol was treated with 0.25 ml of hydrazine hydrate. The mixture was stirred at room temperature overnight. The suspended white solid was filtered off, the filtrate was concentrated and the residue was purified by chromatography on silica gel using 5% methanol in dichloromethane for the elution. There was obtained 0.23 g of (E)-2′-(2-aminoethyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide in the form of a white solid after trituration of the product with ether.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-(2-phthalimidoethyl)valerohydrazide | 0.926 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CCN1C(C=2C(C1=O)=CC=CC2)=O)S(=O)(=O)C)CC(C)C | C33H42N4O8S
reactant | hydrazine hydrate | 0.25 ml | O.NN
solvent | methanol | 10 ml | CO | CH4O
product | (E)-2′-(2-aminoethyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.23 g | NCCN(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)S(=O)(=O)C | C25H40N4O6S
